US07429660B2
[5-(6-Morpholin-4-yl-4-oxo-4H-pyran-2-yl)-9H-thioxanthen-2-yloxy]-acetic acid sodium salt
To a solution of [5-(6-Morpholin-4-yl-4-oxo-4H-pyran-2-yl)-9H-thioxanthen-2-yloxy]-acetic acid methyl ester (1.02 g, 2.18 mmol) in THF (25 ml) was added aqueous NaOH (2.4 ml, 2.4 mmol, 1M solution). The mixture was stirred at 40° C. for 2 hours whereupon it was cooled to room temperature and concentrated in vacuo to give a brown oil. The residue was azeotroped with toluene (3×10 ml) to give the title compound as a fine, dark brown powder that was used without further purification (1.03 g, 100%), m/z (LC-MS, ESP), RT=3.72 min, (M++1)-Na+=452

reactant | [5-(6-Morpholin-4-yl-4-oxo-4H-pyran-2-yl)-9H-thioxanthen-2-yloxy]-acetic acid methyl ester | 2.18 mmol, 1.02 g | COC(COC1=CC=2CC3=CC=CC(=C3SC2C=C1)C=1OC(=CC(C1)=O)N1CCOCC1)=O | C25H23NO6S
reactant | NaOH | 2.4 mmol, 1M, 2.4 ml | [OH-].[Na+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | [5-(6-Morpholin-4-yl-4-oxo-4H-pyran-2-yl)-9H-thioxanthen-2-yloxy]-acetic acid sodium salt | [Na+].N1(CCOCC1)C1=CC(C=C(O1)C1=C2SC=3C=CC(=CC3CC2=CC=C1)OCC(=O)[O-])=O | InChI=1S/C24H21NO6S.Na/c26-17-12-20(31-22(13-17)25-6-8-29-9-7-25)19-3-1-2-15-10-16-11-18(30-14-23(27)28)4-5-21(16)32-24(15)19;/h1-5,11-13H,6-10,14H2,(H,27,28);/q;+1/p-1
